US06001839
Benzenesulphonyl chloride (0.27 g) in dichloromethane (5 ml) was added dropwise with stirring to a solution of 5-(4-aminophenyl)-4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidine (0.40 g) and triethylamine (155 mg) in dichloromethane (15 ml) at 0° C. under nitrogen. The mixture was stirred at 0° C. for one hour and then warmed to ambient temperature and stirred at this temperature for 18 hours. Water (20 ml) was added and the mixture was extracted with dichloromethane. The combined organic layers were washed with sodium bicarbonate, dried, filtered and evaporated to give N-[4-(4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidin-5-yl)phenyl]benzenesulphonamide

reactant | Benzenesulphonyl chloride | 0.27 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 5-(4-aminophenyl)-4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidine | 0.40 g | NC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)Cl)C(C)C | C15H15ClN4
reactant | triethylamine | 155 mg | C(C)N(CC)CC | C6H15N
reactant | Water | 20 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[4-(4-chloro-7-isopropylpyrrolo[2,3-d]pyrimidin-5-yl)phenyl]benzenesulphonamide | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2)C(C)C | C21H19ClN4O2S
